US08012966B2
N-{5-Fluoro-3-[3-methyl-4-oxo-5-(2-pyrrolidin-1-yl-ethyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridin-2-ylmethylene]-2-oxo-2,3-dihydro-1H-indol-6-yl}-2-hydroxy-acetamide
The title compound was prepared under the same conditions as described in Example 13 with 3-methyl-4-oxo-5-(2-pyrrolidin-1-yl-ethyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde and N-(5-fluoro-2-oxo-2,3-dihydro-1H-indol-6-yl)-2-hydroxy-acetamide as starting materials to give N-{5-fluoro-3-[3-methyl-4-oxo-5-(2-pyrrolidin-1-yl-ethyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridin-2-ylmethylene]-2-oxo-2,3-dihydro-1H-indol-6-yl}-2-hydroxy-acetamide (40 mg, 43%) as a yellow solid.

reactant | 3-methyl-4-oxo-5-(2-pyrrolidin-1-yl-ethyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde | CC1=C(NC2=C1C(N(CC2)CCN2CCCC2)=O)C=O | C15H21N3O2
reactant | N-(5-fluoro-2-oxo-2,3-dihydro-1H-indol-6-yl)-2-hydroxy-acetamide | FC=1C=C2CC(NC2=CC1NC(CO)=O)=O | C10H9FN2O3
product | N-{5-fluoro-3-[3-methyl-4-oxo-5-(2-pyrrolidin-1-yl-ethyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridin-2-ylmethylene]-2-oxo-2,3-dihydro-1H-indol-6-yl}-2-hydroxy-acetamide | 40 mg, 43% | FC=1C=C2C(C(NC2=CC1NC(CO)=O)=O)=CC1=C(C=2C(N(CCC2N1)CCN1CCCC1)=O)C | C25H28FN5O4
